US04220647
3,4-Dimethoxyphenethylamine (14.4 g ) and p-toluidinoacetic acid (13.1 g) were heated for 1.5 hours at 190° C. in a stream of nitrogen. After cooling, the reaction mixture was dissolved in ethyl acetate and the solution was washed with a cooled 1 N sodium hydroxide solution and water and then dried. The solvent was distilled off and the oily residue was crystallized by adding ether to give N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(p-toluidino)acetamide (18.6 g), mp 87° to 88.5° C.

reactant | 3,4-Dimethoxyphenethylamine | 14.4 g | COC=1C=C(CCN)C=CC1OC | C10H15NO2
reactant | p-toluidinoacetic acid | 13.1 g | C1(=CC=C(C=C1)NCC(=O)O)C | C9H11NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-2-(p-toluidino)acetamide | 18.6 g | COC=1C=C(C=CC1OC)CCNC(CNC1=CC=C(C=C1)C)=O | C19H24N2O3
